US07176242B2
5-{[Butyl(methyl)amino]methyl}thiophene-2-carboxylic acid
To a solution of methyl 5-{[butyl(methyl)amino]methyl}thiophene-2-carboxylate (280 mg, 1.16 mmol) in 2:1:1 dioxane/methanol/water (8.0 mL) is added lithium hydroxide monohydrate (146 mg, 3.38 mmol) and the reaction mixture stirred at room temperature overnight. The reaction mixture is concentrated under reduced pressure and the solid residue partitioned between ethyl acetate and water The aqueous phase is acidified to pH 1 with 1 N hydrochloric acid and extracted several times with 3:1 chloroform/2-propanol. The combined organic phase is washed with water, and brine, dried (sodium sulfate), filtered, and concentrated under reduced pressure to provide the title compound in pure form. 1H NMR (300 MHz, CD3OD) δ 7.75 (d, J=4 Hz, 1H), 7.41 (d, J=4 Hz, 1H), 4.63 (s, 2H), 3.20–3.14 (m, 2H), 2.85 (s, 3H), 1.82–1.72 (m, 2H), 1.42 (tq, J=8, 7 Hz, 2H), 0.99 (t, J=7 Hz, 3H).

reactant | methyl 5-{[butyl(methyl)amino]methyl}thiophene-2-carboxylate | 1.16 mmol, 280 mg | C(CCC)N(C)CC1=CC=C(S1)C(=O)OC | C12H19NO2S
reactant | lithium hydroxide monohydrate | 3.38 mmol, 146 mg | O.[OH-].[Li+]
solvent | dioxane methanol water | 8.0 mL | O1CCOCC1.CO.O
product | 5-{[Butyl(methyl)amino]methyl}thiophene-2-carboxylic acid | C(CCC)N(C)CC1=CC=C(S1)C(=O)O | C11H17NO2S
